US09126991B2
Preparation of N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide monohydrobromide amorphous polymorph
To a suspension of N-[3-(2-Fluoro-4′-{[(1H-[1,2,3]triazol-4-ylmethyl)-amino]-methyl}-biphenyl-4-yl)-2-oxo-oxazolidin-5-ylmethyl]-acetamide (20 mg, 0.046 mmol) in 1:1 methanol/dichloromethane (0.6 mL) was added dropwise 0.5 M hydrobromic acid in isopropanol (0.28 mL, 0.14 mmol). The reaction mixture was stirred overnight at room temperature. The solvent was removed under reduced pressure, acetonitrile (0.6 mL) was added and the resulting slurry stirred at room temperature overnight. The solid was filtered and dried to give the title compound (0.6 g, 98%) as a solid which was characterized by XRPD. FIG. 3 shows a characteristic X-ray powder diffraction (XRPD) pattern of amorphous N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide monohydrobromide.

reactant | N-[3-(2-Fluoro-4′-{[(1H-[1,2,3]triazol-4-ylmethyl)-amino]-methyl}-biphenyl-4-yl)-2-oxo-oxazolidin-5-ylmethyl]-acetamide | 0.046 mmol, 20 mg | FC1=C(C=CC(=C1)N1C(OC(C1)CNC(C)=O)=O)C1=CC=C(C=C1)CNCC=1N=NNC1 | C22H23FN6O3
reactant | hydrobromic acid | 0.5 M | Br | BrH
reactant | isopropanol | 0.14 mmol, 0.28 mL | C(C)(C)O | C3H8O
solvent | methanol dichloromethane | 0.6 mL | CO.ClCCl
product | N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide monohydrobromide | 0.6 g, 98% | Br.FC1=C(C=CC(=C1)N1C(O[C@H](C1)CNC(C)=O)=O)C1=CC=C(C=C1)CNCC1=CN=NN1 | InChI=1S/C22H23FN6O3.BrH/c1-14(30)25-12-19-13-29(22(31)32-19)18-6-7-20(21(23)8-18)16-4-2-15(3-5-16)9-24-10-17-11-26-28-27-17;/h2-8,11,19,24H,9-10,12-13H2,1H3,(H,25,30)(H,26,27,28);1H/t19-;/m0./s1
